US07723347B2
6-Chloro-4-nitro-1H-pyrrolo[2,3-b]pyridine
Under an argon atmosphere, 5.00 g (27.9 mmol) of 4-Nitro-1H-pyrrolo[2,3-b]pyridine 7-oxide and 11.8 ml (55.8 mmol) of hexamethyldisilazane are initially charged in 290 ml of THF. At RT, 10.8 ml (140 mmol) of methyl chloroformate are added. The solution is stirred at RT overnight. The reaction solution is filtered through a silica gel cartridge and the cartridge is washed with dichloromethane/methanol 10:1.

reactant | 4-Nitro-1H-pyrrolo[2,3-b]pyridine 7-oxide | 27.9 mmol, 5.00 g | [N+](=O)([O-])C1=C2C(=[N+](C=C1)[O-])NC=C2 | C7H5N3O3
reactant | hexamethyldisilazane | 55.8 mmol, 11.8 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methyl chloroformate | 140 mmol, 10.8 ml | ClC(=O)OC | C2H3ClO2
solvent | THF | 290 ml | C1CCOC1 | C4H8O
product | 6-Chloro-4-nitro-1H-pyrrolo[2,3-b]pyridine | ClC1=CC(=C2C(=N1)NC=C2)[N+](=O)[O-] | C7H4ClN3O2
